US06153625
Step A: 5-Fluoro-2-hydroxyimino-1-indanone
15 ml of isoamyl nitrite and then 7.5 ml of concentrated hydrochloric acid are added dropwise to a solution, heated to 40° C., of 11.2 g of 5-fluoro-1-indanone in 185 ml of methanol. After reaction for 45 minutes at 40° C., the reaction mixture is cooled with ice. A precipitate is formed, which is filtered off and then dried in vacuo, allowing the expected product to be isolated.

reactant | isoamyl nitrite | 15 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | hydrochloric acid | 7.5 ml | Cl | ClH
reactant | 5-fluoro-1-indanone | 11.2 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
solvent | methanol | 185 ml | CO | CH4O
product | 5-Fluoro-2-hydroxyimino-1-indanone | FC=1C=C2CC(C(C2=CC1)=O)=NO | C9H6FNO2
